US09388189B2
(S)-tert-Butyl (3-hydroxy-1-(4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)propyl)carbamate
(S)-tert-Butyl (3-(benzyloxy)-1-(4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)propyl)carbamate (0.65 g, 1.37 mmol) was dissolved in 33 mL methanol. Palladium on carbon (10%, 0.65 g, 6.11 mmol) was added and the mixture was hydrogenated at 30 psi overnight. The crude was filtered through a plug of Celite, washing several times with ethyl acetate. The combined filtrates were evaporated to give 0.52 g (99% yield) of the title compound as a white solid. Purity 100%.

reactant | (S)-tert-Butyl (3-(benzyloxy)-1-(4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)propyl)carbamate | 1.37 mmol, 0.65 g | C(C1=CC=CC=C1)OCC[C@@H](C1=NN2C(C(N1C1=CC=CC=C1)=O)=CC=C2)NC(OC(C)(C)C)=O | C27H30N4O4
solvent | methanol | 33 mL | CO | CH4O
catalyst | Palladium on carbon | 6.11 mmol, 0.65 g | [Pd] | Pd
product | (S)-tert-Butyl (3-hydroxy-1-(4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)propyl)carbamate | 0.52 g, 99% yield | OCC[C@@H](C1=NN2C(C(N1C1=CC=CC=C1)=O)=CC=C2)NC(OC(C)(C)C)=O | C20H24N4O4
